US07884202B2
0.37 g (1.0 mmol) of 2′,3′,5′-tri-O-acetyluridine and 0.058 g (0.3 mmol) of ferrocene were weighed and placed in a 50 ml two-neck flask equipped with a magnetic rotor and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 1.8 ml of dimethyl sulfoxide, 2.0 ml of a 1N dimethyl sulfoxide solution of sulfuric acid, 1.0 ml of a 2.1 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide and 0.2 ml of a 30% hydrogen peroxide aqueous solution. The mixture was stirred at 60 to 70° C. for 20 minutes and then the resulting solution was cooled to room temperature. Formation of 5-trifluoromethyl-2′,3′,5′-tri-O-acetyluridine (19F-NMR yield: 45%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. 5-Trifluoromethyl-2′,3′,5′-tri-O-acetyluridine was obtained as a white solid (0.17 g, yield: 40%) by column chromatography.

reactant | 2′,3′,5′-tri-O-acetyluridine | 1.0 mmol, 0.37 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C(=O)NC(=O)C=C1 | C15H18N2O9
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | ferrocene | 0.3 mmol, 0.058 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | dimethyl sulfoxide | 2.1 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1N | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.8 ml | CS(=O)C | C2H6OS
product | 5-trifluoromethyl-2′,3′,5′-tri-O-acetyluridine | yield: 45% | FC(C=1C(NC(N([C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O2)C1)=O)=O)(F)F | C16H17F3N2O9
